US03998879
Reaction of equimolar amounts of spiro[5.5]undecane-2,4-dione with p-toluenesulfonylisocyanate in benzene according to the procedure of Example 1 affords 3-[N-(p-TOLUENESULFONYL)CARBAMOYL]SPIRO-[5.5]UNDECANE-2,4-DIONE, m.p. 150.5°-152° C. (corr.).

reactant | spiro[5.5]undecane-2,4-dione | C1C(CC(CC12CCCCC2)=O)=O | C11H16O2
reactant | p-toluenesulfonylisocyanate | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-[N-(p-TOLUENESULFONYL)CARBAMOYL]SPIRO-[5.5]UNDECANE-2,4-DIONE | C1(=CC=C(C=C1)S(=O)(=O)NC(=O)C1C(CC2(CC1=O)CCCCC2)=O)C | C19H23NO5S
